US08232272B2
To a solution of 32.7 g (91.3 mM) of 1-[1-isobutyl-2-(3-methoxy phenyl)-1H-benzimidazol-5-yl]ethanone hydrochloride in 330 ml of acetic acid are added dropwise 4.7 ml (91.4 mM) of bromine. 100 ml of diethyl ether are then added and the crystalline product is filtered off. It is washed with diethyl ether and dried under vacuum to give 35 g of 2-bromo-1-[1-isobutyl-2-(3-methoxyphenyl)-1H-benzimidazol-5-yl]ethanone hydrochloride.

reactant | 1-[1-isobutyl-2-(3-methoxy phenyl)-1H-benzimidazol-5-yl]ethanone hydrochloride | 91.3 mM, 32.7 g | Cl.C(C(C)C)N1C(=NC2=C1C=CC(=C2)C(C)=O)C2=CC(=CC=C2)OC
reactant | bromine | 91.4 mM, 4.7 ml | BrBr | Br2
reactant | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | acetic acid | 330 ml | C(C)(=O)O | C2H4O2
product | 2-bromo-1-[1-isobutyl-2-(3-methoxyphenyl)-1H-benzimidazol-5-yl]ethanone hydrochloride | 35 g, Yield: 63.2% | Cl.BrCC(=O)C1=CC2=C(N(C(=N2)C2=CC(=CC=C2)OC)CC(C)C)C=C1 | InChI=1S/C20H21BrN2O2.ClH/c1-13(2)12-23-18-8-7-14(19(24)11-21)10-17(18)22-20(23)15-5-4-6-16(9-15)25-3;/h4-10,13H,11-12H2,1-3H3;1H
